US06858638B2
N-(3-Amino-1H-indazol-5-yl)-2,6-difluorobenzenesulfonamide can be obtained as described in Example 39 from 1 g of 3,5-diamino-1H-indazole, 10 ml of pyridine, 10 ml of tetrahydrofuran and 1.4 g of 2,6-difluorobenzenesulfonyl chloride. 179 mg of N-(3-amino-1H-indazol-5-yl)-2,6-difluorobenzenesulfonamide are thus obtained in the form of a gray solid melting at 241° C. (analysis C13H10F2N4O2S % calculated C, 48.15; H, 3.11; F, 11.72; N, 17.28; O, 9.87; S, 9.89. % found C, 47.81; H, 3.18; F, 11.64; N, 17.00; S, 9.67).

reactant | 3,5-diamino-1H-indazole | 1 g | NC1=NNC2=CC=C(C=C12)N | C7H8N4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,6-difluorobenzenesulfonyl chloride | 1.4 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(3-amino-1H-indazol-5-yl)-2,6-difluorobenzenesulfonamide | 179 mg | NC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1F)F | C13H10F2N4O2S
